* N:\Articles\Projects\VCO DIY Synth\Spice\vco.asc
R1 N003 KEY 100K
XU1 0 N003 VCC VEE N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N004 N003 1.8K
R3 N003 TUNE 100K
R4 N003 LFO 100K
V1 VCC 0 5V
V2 VEE 0 -4V
V3 KEY 0 2.833
Q1 N007 N004 N010 0 NPN
Q2 N001 0 N010 0 NPN
XU3 0 N007 VCC VEE N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 N011 N007 1nF
R5 N010 N011 1K
R6 VCC N007 1Meg
V4 NC_01 0 PULSE(0 5 0 1ms 0 0 0)
XU4 0 N001 VCC VEE INPUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 INPUT N001 30K
XU2 N008 N002 VCC 0 TRIANGLE level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R8 N002 INPUT 100K
R9 N008 INPUT 47K
R10 N012 N002 47K
R11 0 N008 47K
Q3 N012 N013 0 0 NPN
C2 TRIANGLE N002 3.8863nF
XU5 N009 TRIANGLE VCC 0 SQUARE level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R12 SQUARE N009 100K
R13 N009 VREF 47K
V5 LFO 0
XU6 NC_02 N006 VCC 0 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N005 N006 14K
R15 N006 0 1K
R16 SQUARE N013 100K
V6 VREF 0 2.5V
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 1000ms 0 10us startup uic
.lib UniversalOpamps2.sub
.backanno
.end
